US09290468B2
Step 1: 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one
To a solution of 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazole-6-carboxylic acid (70 mg, 0.17 mmol) in t-BuOH (3 mL) was added DPPA (82 mg, 0.29 mmol) followed by triethylamine (36 mg, 0.36 mmol). The mixture was heated under reflux for 3 h and allowed to slowly warm to room temperature. The solvent was removed in vacuo and the resultant crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 2:1, v/v). The corresponding product was obtained (white solid, 62 mg, 89.2% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.75 (s, 1H), 8.67 (s, 1H), 7.96 (d, 1H), 7.76 (d, 1H), 7.50 (m, 1H), 7.39 (s, 1H).

reactant | 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazole-6-carboxylic acid | 0.17 mmol, 70 mg | FC1=C(C(=CC2=C1N=CO2)C(=O)O)NC2=C(C=C(C=C2)I)F | C14H7F2IN2O3
reactant | DPPA | 0.29 mmol, 82 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.36 mmol, 36 mg | C(C)N(CC)CC | C6H15N
solvent | t-BuOH | 3 mL | CC(C)(C)O | C4H10O
product | 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one | 89.2% yield | FC1=C2C(=CC3=C1N=CO3)NC(N2C2=C(C=C(C=C2)I)F)=O | C14H6F2IN3O2
